US08183380B2
rac-N2-(7-Methyl-indan-1-yl)-quinoline-2,6-diamine
The title compound was prepared in accordance with the general method described in example 2 from 2-chloro-6-nitro-quinoline and rac-7-methyl-indan-1-ylamine (CAS no: 168902-78-1); MS: m/e=290.4 (M+H+).

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | rac-7-methyl-indan-1-ylamine | CC=1C=CC=C2CCC(C12)N | C10H13N
product | rac-N2-(7-Methyl-indan-1-yl)-quinoline-2,6-diamine | CC=1C=CC=C2CCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C19H19N3
